US05338856
B. Preparation of 5-Methyl-2-trifluoromethylthiazole
Trifluoroacetamidoacetone (8.45 g, 50 mmol) and 20.2 g (50 mmol) of Lawesson's reagent were slurried in 100 mL of benzene and the mixture was heated at reflux with stirring for 4-5 hours to obtain a clear solution. This was allowed to cool and was washed with 50 mL of 10 percent aqueous sodium hydroxide solution, dried over magnesium sulfate, and filtered. The resulting solution was kugelrohr distilled at 160° C. and the distillate was distilled through a 40 cm column packed with glass helices (to remove the benzene) until the head temperature began to drop. It was then distilled through a 20 cm Vigreaux column to obtain 5.1 g (61 percent of theory) of the title compound as a pale oil boiling at 138°-141° C.

reactant | Trifluoroacetamidoacetone | 50 mmol, 8.45 g | FC(C(=O)NCC(C)=O)(F)F | C5H6F3NO2
reactant | Lawesson's reagent | 50 mmol, 20.2 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 5-Methyl-2-trifluoromethylthiazole | CC1=CN=C(S1)C(F)(F)F | C5H4F3NS
